US07994185B2
N-[3-(2-(1,1-dimethylethyl)-5-{2-[3-(4-morpholinyl)-3-oxopropyl]-4-pyrimidinyl}-1,3-thiazol-4-yl)-2-fluorophenyl]-2,5-difluorobenzenesulfonamide
3-{4-[4-(3-{[(2,5-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinyl}propanoic acid (200 mg, 0.347 mmol) was taken up in N,N-dimethylformamide (DMF) (2 ml). HATU (0.158 g, 0.416), DIEA (0.134 g, 1.041 mmol), and morpholine (0.060 g, 0.694) were added. After 30 min, the reaction mixture was concentrated and residue was purified via Gilson Acidic HPLC (10 to 90% gradient, Acetonitrile/H2O+TFA; C18 column) to obtain the title compound (147 mg, 53%) as white solid. MS (ESI): 646 [M+H]+.

reactant | 3-{4-[4-(3-{[(2,5-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinyl}propanoic acid | 0.347 mmol, 200 mg | FC1=C(C=C(C=C1)F)S(=O)(=O)NC=1C(=C(C=CC1)C=1N=C(SC1C1=NC(=NC=C1)CCC(=O)O)C(C)(C)C)F | C26H23F3N4O4S2
reactant | HATU | 0.158 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.041 mmol, 0.134 g | CCN(C(C)C)C(C)C | C8H19N
reactant | morpholine | 0.060 g | N1CCOCC1 | C4H9NO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-[3-(2-(1,1-dimethylethyl)-5-{2-[3-(4-morpholinyl)-3-oxopropyl]-4-pyrimidinyl}-1,3-thiazol-4-yl)-2-fluorophenyl]-2,5-difluorobenzenesulfonamide | 147 mg, 53% | CC(C)(C)C=1SC(=C(N1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F)C1=NC(=NC=C1)CCC(=O)N1CCOCC1 | C30H30F3N5O4S2
